US04310538
A mixture of sodium 3-chloro-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate (20 mg), p-(t-butyl)benzyl bromide (34 mg), and anhydrous hexamethylphosphoramide (0.4 ml) is stirred under a nitrogen atmosphere at room temperature for 2.5 hrs. The mixture is diluted with toluene (5 ml), washed with water (5×2 ml) and brine, dried with MgSO4, filtered, and concentrated in vacuo. Chromatography of the residue on a silica gel plate yields p-(t-butyl)benzyl 3-chloro-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | sodium 3-chloro-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | 20 mg | ClC1=C(N2C(CC2C1)=O)C(=O)[O-].[Na+]
reactant | p-(t-butyl)benzyl bromide | 34 mg | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
reactant | hexamethylphosphoramide | 0.4 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | p-(t-butyl)benzyl 3-chloro-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | ClC1=C(N2C(CC2C1)=O)C(=O)OCC1=CC=C(C=C1)C(C)(C)C | C18H20ClNO3
